US08685969B2
2. Benzyl 3-(1-(2-fluorophenyl)-2-nitroethyl)-1H-indol-6-ylcarbamate
Benzyl 1H-indol-6-ylcarbamate (0.981 g, 3.68 mmol) and (E)-1-fluoro-2-(2-nitrovinyl)benzene (0.770 g, 4.60 mmol) were suspended and well mixed in dichloromethane (15 mL). The suspension was concentrated under vacuum to dryness. The solid mixture was then heated at 105° C. under nitrogen for 7 hr. The mixture was subjected to ISCO (120 g silica gel, solid loading, 20-45% ethyl acetate) to afford the desired product (1.287 g, 2.97 mmol, 81% yield) as a white solid.

reactant | Benzyl 1H-indol-6-ylcarbamate | 3.68 mmol, 0.981 g | N1C=CC2=CC=C(C=C12)NC(OCC1=CC=CC=C1)=O | C16H14N2O2
reactant | (E)-1-fluoro-2-(2-nitrovinyl)benzene | 4.60 mmol, 0.770 g | FC1=C(C=CC=C1)\C=C\[N+](=O)[O-] | C8H6FNO2
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | Benzyl 3-(1-(2-fluorophenyl)-2-nitroethyl)-1H-indol-6-ylcarbamate | 2.97 mmol, 1.287 g, 81% yield | FC1=C(C=CC=C1)C(C[N+](=O)[O-])C1=CNC2=CC(=CC=C12)NC(OCC1=CC=CC=C1)=O | C24H20FN3O4
